US07728144B2
Biphenyl-2-ylcarbamic acid 1-[2-(3-hydroxymethylbenzylcarbamoyl)ethyl]piperidin-4-yl Ester
To a stirred solution of 3-[4-(Biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionic acid (0.5 g, 1.36 mmol; prepared as described in Preparation 11) in DCM (200 mL) was added DIPEA (10.7 mL, 6.12 mmol), 3-aminomethylbenzyl alcohol (0.33 g, 1.9 mmol), DMAP (0.14 g, 0.14 mmol) and EDCI (0.364 g, 1.9 mmol). The reaction mixture was stirred at room temperature for 2 hours. The mixture was concentrated, taken up in EtOAc (20 mL) and then washed with K2CO3 (3×10 mL), H2O (1×10 mL), brine (1×10 mL), dried over magnesium sulfate, filtered and concentrated. The mixture was purified on silica gel (7% MeOH/CHCl3) to afford 0.38 g of the title intermediate (57% yield).

reactant | 3-[4-(Biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionic acid | 1.36 mmol, 0.5 g | C1(=C(C=CC=C1)NC(=O)OC1CCN(CC1)CCC(=O)O)C1=CC=CC=C1 | C21H24N2O4
reactant | DIPEA | 6.12 mmol, 10.7 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-aminomethylbenzyl alcohol | 1.9 mmol, 0.33 g | NCC=1C=C(CO)C=CC1 | C8H11NO
reactant | EDCI | 1.9 mmol, 0.364 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.14 mmol, 0.14 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | Biphenyl-2-ylcarbamic acid 1-[2-(3-hydroxymethylbenzylcarbamoyl)ethyl]piperidin-4-yl Ester | 0.38 g, 57% yield | OCC=1C=C(CNC(=O)CCN2CCC(CC2)OC(NC2=C(C=CC=C2)C2=CC=CC=C2)=O)C=CC1 | C29H33N3O4
